US07384967B2
1-[4-(5-Aminomethyl-4-cyclopropyl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (51 mg, 99%) was prepared from (5-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethylsulfanyl}-4-cyclopropyl-4H-[1,2,4]triazol-3-ylmethyl)-carbamic acid tert-butyl ester (61 mg, 0.10 mmol) and hydrochloric acid (4 mL, 4.0 M. in dioxane) following the general deprotection procedure.

reactant | (5-{2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-ylmethylsulfanyl}-4-cyclopropyl-4H-[1,2,4]triazol-3-ylmethyl)-carbamic acid tert-butyl ester | 0.10 mmol, 61 mg | C(C)(C)(C)OC(NCC1=NN=C(N1C1CC1)SCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C29H37N7O4S2
reactant | hydrochloric acid | 4.0 M, 4 mL | Cl | ClH
product | 1-[4-(5-Aminomethyl-4-cyclopropyl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 51 mg, 99% | NCC=1N(C(=NN1)SCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)C1CC1 | C24H29N7O2S2
